US06610723B2
3-Bromo-5-(chloromethyl)-pyridine
To a cooled solution of thionylchloride (41 ml, 344 mmol) at 0° C. was added cautiously (highly exothermic) portionwise (5-bromo-pyridin-3-yl)-methanol (10 g, 44.5 mmol). After complete addition the mixture was heated to reflux for 1 h to complete the reaction. After cooling, ether (50 ml) was added and the mixture cooled to 4° C. The precipitated solid was filtered off and washed with cold ether then dried at 50° C. under vacuum for 2 h to afford the title compound (9.1 g, 84%) as a light yellow solid. MS: m/e=206.9 (M+).

reactant | thionylchloride | 344 mmol, 41 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (5-bromo-pyridin-3-yl)-methanol | 44.5 mmol, 10 g | BrC=1C=C(C=NC1)CO | C6H6BrNO
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3-Bromo-5-(chloromethyl)-pyridine | 9.1 g, 84% | BrC=1C=NC=C(C1)CCl | C6H5BrClN
